US04673686
N-(1-cyclohexylmethyl-3-pyrrolidinyl)-2-methoxy-4-amino-5-ethyl-sulphonyl-benzamide
7.8 g of 2-methoxy-4-amino-5-ethylsulphonyl benzoic acid, 70 ml of acetone, 10 ml of water and 3 g of triethylamine are placed in a 250 ml flask fitted with an agitator, a thermometer and a dropping funnel. The mixture is cooled to 0° C. and 4.1 g of isobutyl chloroformate is poured in drop by drop. It is agitated for 45 minutes at 0° C. and 6 g of 1-cyclohexylmethyl-3-amino-pyrrolidine is dripped in. The reaction is continued for 2 hours at room temperature, 80 ml of water and 5 ml of soda lye are added, then the acetone is evaporated under vacuum. An oil is decanted; it is washed twice with 100 ml of water than dissolved hot in 50 ml ethyl acetate. It is chilled in a refrigerator. The crystals are filtered off, washed with a little ethyl acetate then dried in an oven at 50° C.

reactant | 2-methoxy-4-amino-5-ethylsulphonyl benzoic acid | 7.8 g | COC1=C(C(=O)O)C=C(C(=C1)N)S(=O)(=O)CC | C10H13NO5S
reactant | acetone | 70 ml | CC(=O)C | C3H6O
reactant | isobutyl chloroformate | 4.1 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-cyclohexylmethyl-3-amino-pyrrolidine | 6 g | C1(CCCCC1)CN1CC(CC1)N | C11H22N2
solvent | water | 80 ml | O | H2O
solvent | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
solvent | water | 10 ml | O | H2O
product | N-(1-cyclohexylmethyl-3-pyrrolidinyl)-2-methoxy-4-amino-5-ethyl-sulphonyl-benzamide | C1(CCCCC1)CN1CC(CC1)NC(C=1C(C(C(=C(C1)CC)N)=S(=O)=O)OC)=O | C21H33N3O4S
